US04071684
A process for preparing 3-(1,2-diphenylethyl)-1,4,5,6-tetrahydro-1,2,4-triazine which comprises reacting benzyl cyanide with benzyl chloride to produce 2,3-diphenylpropionitrile and cyclizing the 2,3-diphenylpropionitrile with 2-aminoethylhydrazine in the presence of a catalytic amount of elemental sulfur to give 3-(1,2-diphenylethyl)-1,4,5,6-tetrahydro-1,2,4-triazine.

reactant | 2,3-diphenylpropionitrile | C1(=CC=CC=C1)C(C#N)CC1=CC=CC=C1 | C15H13N
reactant | 2-aminoethylhydrazine | NCCNN | C2H9N3
reactant | sulfur | [S] | S
product | 3-(1,2-diphenylethyl)-1,4,5,6-tetrahydro-1,2,4-triazine | C1(=CC=CC=C1)C(CC1=CC=CC=C1)C1=NNCCN1 | C17H19N3
